US07829584B2
2-fluoro-terephthalonitrile
To a solution of 4-bromo-6-fluorobenzonitrile (5 g, 25 mmol) in anhydrous DMF (20 mL) was added Zinc cyanide (1.75 g, 14.9 mmol) and tetrakis(triphenylphosphine)-palladium(0) (0.6 g, 0.519 mmol). The reaction mixture was heated overnight under argon at 90° C. After cooling to room temperature, the reaction mixture was poured into ethyl acetate (150 mL) and extracted with water 50 mL, 2×30 mL, brine (30 mL), then dried over anhydrous sodium sulfate. After rotary evaporation of most solvent, the concentrated solution was loaded onto a silica column and eluted with EtOAc/Hexane (1:6). A white solid was obtained (3.73 g). 1H-NMR (300 MHz, CDCl3) δ 7.80 (m, 1H), 7.58 (m, 2H).

reactant | 4-bromo-6-fluorobenzonitrile | 25 mmol, 5 g | BrC1=CC=C(C#N)C(=C1)F | C7H3BrFN
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 14.9 mmol, 1.75 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.519 mmol, 0.6 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-fluoro-terephthalonitrile | FC1=C(C#N)C=CC(=C1)C#N | C8H3FN2
